US08877801B2
To a solution of 3-bromo-6-methoxy-2-(4-methoxyphenyl)-benzo[b]thiophene (4 g, 11.45 mmol) in DCM (20.02 mL) at room temperature was added trifluoroacetic acid (20.02 mL) dropwise, the reaction went from orange to dark brown in color. Upon addition the resulting mixture was stirred at room temp for 10 min and then hydrogen peroxide (30% wt. aq) (1.583 mL, 16.47 mmol) was added dropwise. After 90 min at room temperature the reaction mixture was quenched with sodium bisulfite (1.714 g, 16.47 mmol) (vigorous bubbling was observed) followed by 3.0 mL of water. The resulting suspension was stirred vigorously for 15 min and then concentrated in vacuo to remove DCM and most of the TFA. The residue was partitioned between DCM (40 mL) and sat. aq. NaHCO3 solution (40 mL) and separated. The organic layer was collected (phase separator) and concentrated in vacuo to afford the crude product, which was purified by column chromatography (SiO2, 1-40% EtOAc/Heptane) to afford 3-bromo-6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene 1-oxide (4.6 g, 10.08 mmol, 88% yield) as an orange solid. 1H NMR (400 MHz, CD3OD) δ ppm=7.51-7.65 (m, 2H), 7.37-7.51 (m, 2H), 7.08 (dd, J=2.27, 8.34 Hz, 1H), 6.79-6.96 (m, 2H), 3.74 (s, 3H), 3.68 (s, 3H).

reactant | 3-bromo-6-methoxy-2-(4-methoxyphenyl)-benzo[b]thiophene | 11.45 mmol, 4 g | BrC=1C2=C(SC1C1=CC=C(C=C1)OC)C=C(C=C2)OC | C16H13BrO2S
reactant | trifluoroacetic acid | 20.02 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrogen peroxide | 16.47 mmol, 1.583 mL | OO | H2O2
reactant | sodium bisulfite | 16.47 mmol, 1.714 g | S([O-])(O)=O.[Na+]
solvent | DCM | 20.02 mL | C(Cl)Cl | CH2Cl2
solvent | water | 3.0 mL | O | H2O
product | 3-bromo-6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene 1-oxide | 10.08 mmol, 4.6 g, 88% yield | BrC=1C2=C(S(C1C1=CC=C(C=C1)OC)=O)C=C(C=C2)OC | C16H13BrO3S
